US05550149
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl]thio]-2(1H]-isoquinolinebutanenitrile
The procedure of Example 3 is repeated using 3.3 g of α-(2-chloroethyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 1.14 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 0.311 g of the desired product as a brown oil.

reactant | α-(2-chloroethyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 3.3 g | ClCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C19H20ClNO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.14 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl]thio]-2(1H]-isoquinolinebutanenitrile | 0.311 g | COC=1C=C(C=CC1OC)C(C#N)(CCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C30H34N2O4S
